US07217733B2
To a cooled at 0° C. solution of N-Boc-L-proline 3-nitrooxypropyl ester (2.1 g, 6.6 mmol) in Ethyl acetate (50 mL) a 6.8 M solution of HCl in ethyl acetate (19.4 mL) was added and the solution was slowly warmed to room temperature and stirred for 5 hours. Then the solvent was evaporated affording L-proline 3-nitrooxypropyl ester hydrochloride (1.7 g, quantitative) as a foam.

reactant | N-Boc-L-proline 3-nitrooxypropyl ester | 6.6 mmol, 2.1 g | [N+](=O)([O-])OCCCOC([C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C13H22N2O7
reactant | HCl | Cl | ClH
solvent | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 19.4 mL | C(C)(=O)OCC | C4H8O2
product | L-proline 3-nitrooxypropyl ester hydrochloride | 1.7 g | Cl.[N+](=O)([O-])OCCCOC([C@H]1NCCC1)=O | InChI=1S/C8H14N2O5.ClH/c11-8(7-3-1-4-9-7)14-5-2-6-15-10(12)13;/h7,9H,1-6H2;1H/t7-;/m0./s1
